US05344843
A solution of 4-[[2-(2-naphthalenyloxy)ethyl]oxy]-alpha-oxobenzeneacetic acid methyl ester (0.5 g) in methanol (40 mL) and tetrahydrofuran (40 mL) was chilled in an ice bath and saturated with ammonia gas. The cooling bath was removed and the mixture was stirred at room temperature for 4 hours and the solution was evaporated to dryness. Crystallization from tetrahydrofuran-ethyl alcohol provided 0.4 g of 4-[[2-(2-naphthalenyloxy)ethyl]oxy]-alpha-oxobenzeneacetamide as a colorless solid, mp 194°-196° C.

reactant | 4-[[2-(2-naphthalenyloxy)ethyl]oxy]-alpha-oxobenzeneacetic acid methyl ester | 0.5 g | COC(C(C1=CC=C(C=C1)OCCOC1=CC2=CC=CC=C2C=C1)=O)=O | C21H18O5
reactant | ammonia | N | H3N
solvent | methanol | 40 mL | CO | CH4O
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
product | 4-[[2-(2-naphthalenyloxy)ethyl]oxy]-alpha-oxobenzeneacetamide | 0.4 g | C1=C(C=CC2=CC=CC=C12)OCCOC1=CC=C(C=C1)C(C(=O)N)=O | C20H17NO4
